### PR TITLE
[Merged by Bors] - feat: Minkowski Convex Body Theorem for compact convex body

### PR DESCRIPTION
**Pull request by xroblot**
---

- [x] depends on: #8287
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 1]
```diff
@@ -58,13 +58,15 @@ theorem exists_pair_mem_lattice_not_disjoint_vadd [AddCommGroup L] [Countable L]
...
+
 /-- The **Minkowski Convex Body Theorem**. If `s` is a convex symmetric domain of `E` whose volume
 is large enough compared to the covolume of a lattice `L` of `E`, then it contains a non-zero
 lattice point of `L`.  -/
-theorem exists_ne_zero_mem_lattice_of_measure_mul_two_pow_lt_measure [NormedAddCommGroup E]
-    [NormedSpace ℝ E] [BorelSpace E] [FiniteDimensional ℝ E] [IsAddHaarMeasure μ]
-    {L : AddSubgroup E} [Countable L] (fund : IsAddFundamentalDomain L F μ)
-    (h : μ F * 2 ^ finrank ℝ E < μ s) (h_symm : ∀ x ∈ s, -x ∈ s) (h_conv : Convex ℝ s) :
+theorem exists_ne_zero_mem_lattice_of_measure_mul_two_pow_lt_measure
+    (h : μ F * 2 ^ finrank ℝ E < μ s) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean:69]: could you move the Prop variables back to the statement? I know they are common to this theorem and the next one, so it is tempting to factor them out, but in practice it makes the statements much harder to read. A good rule of thumb is that explicit Prop variables should be in the body of the theorem 99% percent of the time.

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 2]
```diff
@@ -83,4 +85,51 @@ theorem exists_ne_zero_mem_lattice_of_measure_mul_two_pow_lt_measure [NormedAddC
   refine' h_conv hw (h_symm _ hv) _ _ _ <;> norm_num
 #align measure_theory.exists_ne_zero_mem_lattice_of_measure_mul_two_pow_lt_measure MeasureTheory.exists_ne_zero_mem_lattice_of_measure_mul_two_pow_lt_measure
 
+variable  (h_cpt : IsCompact s) (h_mes : μ s ≠ 0) [DiscreteTopology L] [Nontrivial E]
+
+/-- The version of Minkowski Convex Body Theorem where we assume in addition that `s` is compact.
+In this case, the strict inequality can be replaced by a weak inequality. -/
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean:91]: This docstring is not really self-contained as it requires knowing what the Minkowski theorem is. Could you rather make it self-contained by modelling it on the docstring of the previous theorem?

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: I can see your point especially with so many hypothesis. Done.

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: I changed that and added some precision about the difference between the two theorems.

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 3]
```diff
@@ -83,4 +83,56 @@ theorem exists_ne_zero_mem_lattice_of_measure_mul_two_pow_lt_measure [NormedAddC
...
+/-- The **Minkowski Convex Body Theorem for compact domain**. If `s` is a convex compact symmetric
+domain of `E` whose volume is large enough compared to the covolume of a lattice `L` of `E`, then it
+contains a non-zero lattice point of `L`. Compared to
+`exists_ne_zero_mem_lattice_of_measure_mul_two_pow_lt_measure`, this version requires in addition
+that `s` is compact and `L` is discrete but provides a weaker inequality rather than a strict
+inequality. -/
+theorem exists_ne_zero_mem_lattice_of_measure_mul_two_pow_le_measure [NormedAddCommGroup E]
+    [NormedSpace ℝ E] [BorelSpace E] [FiniteDimensional ℝ E] [Nontrivial E] [IsAddHaarMeasure μ]
+    {L : AddSubgroup E} [Countable L] [DiscreteTopology L] (fund : IsAddFundamentalDomain L F μ)
+    (h_symm : ∀ x ∈ s, -x ∈ s) (h_conv : Convex ℝ s) (h_cpt : IsCompact s) (h_mes : μ s ≠ 0)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean:95]: you shouldn't need `h_mes` here: if the measure of `s` were zero, then by `h` the measure of `F` would be zero, and then by `fund` the measure of the whole space would be zero, a contradiction.

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean [hunk 4]
```diff
@@ -83,4 +83,56 @@ theorem exists_ne_zero_mem_lattice_of_measure_mul_two_pow_lt_measure [NormedAddC
...
+    (h : μ F * 2 ^ finrank ℝ E ≤ μ s) :
+    ∃ (x : _) (_ : x ≠ 0), ((x : L) : E) ∈ s := by
+  have h_nemp : s.Nonempty := nonempty_of_measure_ne_zero h_mes
+  let u : ℕ → ℝ≥0 := fun n => 1 / ((n:ℝ≥0) + 1)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean:99]: Often, instead of using an explicit sequence tending to zero, it is more efficient to use a lemma like `exists_seq_strictAnti_tendsto` which gives you some sequence with this property.

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: Indeed, I have a PR #8287 that proves that the volume of a fundamental domain is nonzero. Using it, I can remove the assumption.

File: Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean (hunk 4 above)
Comment (xroblot) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: That is indeed very convenient. In this case, that means I don't need the following lemma anymore: 
```lean
theorem NNReal.tendsto_const_div_add_atTop_nhds_0_nat (C : ℝ≥0) :
     Tendsto (fun n : ℕ => C / ((n:ℝ≥0) + 1)) atTop (𝓝 0)
```
Should I remove it from the PR since I am not really convinced that it is really useful in general?

Comment (sgouezel) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: Yes, I would remove it.

Comment (xroblot) [reply Mathlib/MeasureTheory/Group/GeometryOfNumbers.lean]: it's gone.

**Comment by sgouezel** [comment]
bors r+
Thanks!
